US05639763
AN ALTERNATE SYNTHESIS OF 4-[BIS(4TRIFLUOROMETHOXYPHENYL)HYDROXYMETHYL]PIPERIDINE FOR USE AS AN INTERMEDIATE
A stirred mixture of 5.0 grams (0.021 mole) of 4-trifluoromethoxyphenyl bromide, 13.8 grams (0.570 gram-atom) of magnesium turnings, and a crystal of iodine in 25 mL of anhydrous tetrahydrofuran was warmed to 50°-60° C. Once the Grignard reaction commenced, 500 mL of anhydrous tetrahydrofuran was added, and the reaction mixture temperature was adjusted to 45° C. To this was added a solution of 53.0 grams (0.230 mole) of ethyl N-(trimethylsilyl)piperidin-4-ylcarboxylate and 128.8 grams (0.534 mole) of 4-trifluoromethoxyphenyl bromide in 475 mL of anhydrous tetrahydrofuran at a rate to maintain the reaction mixture temperature at 45°-55° C. Upon completion of the addition, the reaction mixture heated at reflux for about two hours, after which the reaction mixture was poured into a stirred mixture of 550 mL of an aqueous solution saturated with ammonium chloride and 200 grams of ice. The mixture was then extracted with 650 mL of ethyl acetate. The organic layer was shaken with one 250 mL portion of an aqueous solution saturated with sodium bicarbonate, one 250 mL portion of aqueous 10% sodium hydroxide solution, and with two 200 mL portions of an aqueous solution saturated with sodium chloride. The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 110 grams of residual oil. The oil was triturated with 500 mL of petroleum ether, and 67.0 grams of solid 4-[bis(trifluoromethoxyphenyl)hydroxymethyl]piperidine was collected by filtration. The filtrate was cooled, and an additional 15.5 grams of solid 4-[bis(trifluoromethoxyphenyl)hydroxymethyl]piperidine was collected by filtration. The total yield was 82%. The NMR spectrum was consistent with the proposed structure.

reactant | magnesium | 13.8 grams | [Mg] | Mg
reactant | iodine | II | I2
reactant | ethyl N-(trimethylsilyl)piperidin-4-ylcarboxylate | 0.230 mole, 53.0 grams | C[Si](N1CCC(CC1)C(=O)OCC)(C)C | C11H23NO2Si
reactant | 4-trifluoromethoxyphenyl bromide | 0.534 mole, 128.8 grams | FC(OC1=CC=C(C=C1)Br)(F)F | C7H4BrF3O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 475 mL | O1CCCC1 | C4H8O
catalyst | 4-trifluoromethoxyphenyl bromide | 0.021 mole, 5.0 grams | FC(OC1=CC=C(C=C1)Br)(F)F | C7H4BrF3O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 4-[BIS(4TRIFLUOROMETHOXYPHENYL)HYDROXYMETHYL]PIPERIDINE | 110 grams, yield was 82% | FC(OC1=CC=C(C=C1)C(C1CCNCC1)(O)C1=CC=C(C=C1)OC(F)(F)F)(F)F | C20H19F6NO3
